US04062746
The synthesis of the peptide resin 15 was done according to the method described in Example 6 by building on Boc glycine resin (2.0 g, 0.3 mmol Gly/g) or by using resin 14a and adding Boc-Trp, Boc-His (Bzl) and Pyro-Glu. Amino acid analysis gave Gly2.0 Ser0.96 Pro1.05 Glu1.05 Leu1.06 Tyr1.13 Arg1.10 BzlHis0.86. A suspension of 1.1 g of 13 in absolute ethanol was photolyzed and purified as described in Example 7. The purified protected decapeptide 15 was obtained in 64% yield (0.257 g): m.p. 155°-159°; tlc Rf1 0.80, Rf2 0.11, Rf3 0.75, Rf4 0.04; UV max (MeOH) 262 mμ (t = 6000); the nmr was consistent with the structure; [α]27D - 22 (c 1 (CH3CO2H); the amino acid composition was Gly1.90 Ser0.92 Pro1.0 Leu1.0 Tyr0.92 Arg1.02 Glu1.02.

reactant | Boc-Trp | CC(C)(C)OC(=O)N[C@@H](CC1=CC=2C=CC=CC2N1)C(=O)O | C16H20N2O4
reactant | Boc-His | N([C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C11H17N3O4
reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
product | Gly2 | C(C(=O)NCC(=O)O)N | C4H8N2O3
